US08895565B2
4-Chloro-2,6-dimethyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine
4-Chloro-2,6-dimethyl-5-iodopyrimidine and 4-ethynyl-α,α,α-trifluorotoluene were reacted in toluene in the presence of dichlorobis(triphenylphosphine)palladium, cuprous iodide and triethylamine while stirring under room temperature to heating to obtain a target substance. The target substance was subjected to e.g., proton nuclear magnetic resonance spectrometry (1H-NMR) and mass spectrometry (MS) and confirmed as the titled compound. Furthermore, MS measurement result is shown.

reactant | 4-Chloro-2,6-dimethyl-5-iodopyrimidine | ClC1=NC(=NC(=C1I)C)C | C6H6ClIN2
reactant | 4-ethynyl-α,α,α-trifluorotoluene | C(#C)C1=CC=C(C=C1)C(F)(F)F | C9H5F3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | dichlorobis(triphenylphosphine)palladium | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Chloro-2,6-dimethyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine | ClC1=NC(=NC(=C1C#CC1=CC=C(C=C1)C(F)(F)F)C)C | C15H10ClF3N2
